US06855710B2
a) 1-acetyl-3-(1-hydroxy-1-phenyl-methylidene)-2-indolinone
880 mg (5 mmol) of 1-acetyl-2-indolinone and 610 mg (5 mmol) of benzoic acid are dissolved in 15 ml of DMF and after the addition of 1.8 g (5.5 mmol) of TBTU, 840 mg (5.5 mmol) of HOBt and 3.2 g (25 mmol) of N-ethyl-N,N-diisopropyl-amine are stirred for 16 hours at ambient temperature. The solution is stirred into dilute hydrochloric acid, the precipitate is suction filtered and dried at 60° C.

reactant | 1-acetyl-2-indolinone | 5 mmol, 880 mg | C(C)(=O)N1C(CC2=CC=CC=C12)=O | C10H9NO2
reactant | benzoic acid | 5 mmol, 610 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | TBTU | 5.5 mmol, 1.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 5.5 mmol, 840 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethyl-N,N-diisopropyl-amine | 25 mmol, 3.2 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-acetyl-3-(1-hydroxy-1-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)O)=O | C17H13NO3
